US04545812
Ethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-aminobenzoate hydrochloride (12 g) and conc. hydrochloric acid (6.6 ml) were added to acetic acid (85 ml), and the resultant mixture was cooled to less than 10° C. A solution of sodium nitrite (2.5 g) in water (6 ml) was dropwise added thereto. When the resulting mixture became completely transparent, benzene (20 ml), acetic acid (20 ml) saturated with sulfur dioxide and copper chloride (1.5 g) were added thereto. After stirring overnight, the reaction mixture was poured onto ice-water. The deposited oily substance was extracted with chloroform, washed with water and dried over anhydrous magnesium sulfate. The extract was concentrated and allowed to stand. The crystallized substance was recrystallized from hexane to give 9 g of 4-(2-chloro-4-trifluoromethylphenoxy)-2-ethoxycarbonylbenzenesulfonyl chloride. M.P., 96°-96.5° C.

reactant | Ethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-aminobenzoate hydrochloride | 12 g | Cl.ClC1=C(OC=2C=CC(=C(C(=O)OCC)C2)N)C=CC(=C1)C(F)(F)F
reactant | hydrochloric acid | 6.6 ml | Cl | ClH
reactant | sodium nitrite | 2.5 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | water | 6 ml | O | H2O
catalyst | copper chloride | 1.5 g | [Cu](Cl)Cl
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | acetic acid | 85 ml | C(C)(=O)O | C2H4O2
product | 4-(2-chloro-4-trifluoromethylphenoxy)-2-ethoxycarbonylbenzenesulfonyl chloride | 9 g | ClC1=C(OC2=CC(=C(C=C2)S(=O)(=O)Cl)C(=O)OCC)C=CC(=C1)C(F)(F)F | C16H11Cl2F3O5S
